US06300353B1
To a stirred mixture of NaH (60% in oil, 9.1 g, 0.228 mol) in DMSO (300ml) was added portionwise trimethylsulfoxonium iodide (53.9 g, 0.245 mol ) at the inner temperature with the range from 15° C. to 18° C. over 20 min. The ice bath was removed and the mixture was stirred at r.t. for 3 hrs. The mixture was cooled down to 10° C. To this mixture was added a solution of (2R)-2′,5′-Difluoro-2-(3,4,5,6-tetrahydro-2H-pyran-2-yloxy)-propiophenone (47.3 g, 0.175 mol) in DMSO (150 ml) dropwise over 20 min. The resulting mixture was stirred at r.t. for 4 hrs. The reaction mixture was poured into ice-water (800 ml). The whole was extracted with EtOAc (400 ml+200 ml×2). The combined organic layer was washed with brine, dried over Na2SO4 and concentrated in vacuo. The residue was chromatograkkphed on silicagel (n-hexane: EtOAc=8:1˜5:1) to give 2-(2,5-Difluorophenyl)-2-[(1R)-1-(3,4,5,6,-tetrahydro-2H-pyran-2-yloxy)ethyl]oxirane (48.3 g, 97% ).

reactant | NaH | 0.228 mol, 9.1 g | [H-].[Na+]
reactant | trimethylsulfoxonium iodide | 0.245 mol, 53.9 g | [I-].C[S+](=O)(C)C
reactant | (2R)-2′,5′-Difluoro-2-(3,4,5,6-tetrahydro-2H-pyran-2-yloxy)-propiophenone | 0.175 mol, 47.3 g | FC1=C(C=C(C=C1)F)C([C@@H](C)OC1OCCCC1)=O | C14H16F2O3
solvent | DMSO | 300ml | CS(=O)C | C2H6OS
solvent | DMSO | 150 ml | CS(=O)C | C2H6OS
product | 2-(2,5-Difluorophenyl)-2-[(1R)-1-(3,4,5,6,-tetrahydro-2H-pyran-2-yloxy)ethyl]oxirane | 48.3 g, 97% | FC1=C(C=C(C=C1)F)C1(OC1)[C@@H](C)OC1OCCCC1 | C15H18F2O3
